US07863279B2
Under a nitrogen atmosphere, 1 g (5.76 mmol) of 2-amino-6-chloro-3-nitropyridine is mixed with 1.26 g (8.07 mmol) of 4-chlorobenzeneboronic acid, 7.2 ml (14.4 mmol) of a 2M aqueous solution of sodium carbonate and 0.7 g (16.36 mmol) of lithium chloride in 44 ml of a pre-degassed mixture of ethanol/toluene/water (v/v: 1/1/0.4). 0.34 g (0.29 mmol) of tetrakis(triphenylphosphine)palladium(0) is added. The mixture is heated at 90° C. with stirring for 18 hours. The resulting mixture is cooled to ambient temperature and then diluted with 50 ml of dichloromethane and 25 ml of water. The organic phase is separated by settling out and washed with 25 ml of water and 25 ml of a saturated solution of sodium chloride. The resulting product is dried over sodium sulfate and evaporated to dryness. The product is purified by silica gel chromatography, elution being carried out with a 50:50 then 80:20 mixture of dichloromethane and cyclohexane. 0.395 g (yield: 27%) of 6-(4-chlorophenyl)-3-nitropyridin-2-ylamine is obtained in the form of a white powder.

reactant | 2-amino-6-chloro-3-nitropyridine | 5.76 mmol, 1 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | 4-chlorobenzeneboronic acid | 8.07 mmol, 1.26 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 16.36 mmol, 0.7 g | [Cl-].[Li+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.29 mmol, 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol toluene water | C(C)O.C1(=CC=CC=C1)C.O
product | 6-(4-chlorophenyl)-3-nitropyridin-2-ylamine | 0.395 g, yield: 27% | ClC1=CC=C(C=C1)C1=CC=C(C(=N1)N)[N+](=O)[O-] | C11H8ClN3O2
